US05492929
5-Chloro-3-(2-trifluoromethylphenyl)benzofuran-2-carboxylic acid
Using 4-chloro-2-(2-trifluoromethylbenzoyl)phenol [prepared from 2-bromo-4-chloro-(2methoxyethoxy)methoxybenzene and ortho(trifluoromethyl)benzaldehyde as the starting materials: m.p. 71°-72° C. (recrystallized from hexaneisopropyl ether)] in place of 4-chloro-2-benzoylphenol in Reference Example 1, substantially the same reactions as in Step 1 to Step 3 of Reference Example 1 were conducted to give the title compound. The compounds obtained in the respective steps and their physicochemical data are shown below.

reactant | 4-chloro-2-(2-trifluoromethylbenzoyl)phenol | ClC1=CC(=C(C=C1)O)C(C1=C(C=CC=C1)C(F)(F)F)=O | C14H8ClF3O2
reactant | 2-bromo-4-chloro-(2methoxyethoxy)methoxybenzene | BrC1=C(C=CC(=C1)Cl)OCOCCOC | C10H12BrClO3
reactant | ortho(trifluoromethyl)benzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
product | 5-Chloro-3-(2-trifluoromethylphenyl)benzofuran-2-carboxylic acid | ClC=1C=CC2=C(C(=C(O2)C(=O)O)C2=C(C=CC=C2)C(F)(F)F)C1 | C16H8ClF3O3
